US07186716B2
3-[4-(2,6-Dichloro-phenyl)-1H-pyrrol-2-yl]-1H-pyrazolo[3,4-b]pyridine
A mixture of (2-chloro-pyridin-3-yl)-[4-(2,6-dichloro-phenyl)-1H-pyrrol-2-yl]-methanone (150 mg) from above and hydrazine hydrate (0.5 mL) in ethanol (7 mL) was heated at 90–100° C. for overnight. The reaction was concentrated, the residue was washed with water, dried and triturated with ethyl acetate-hexane mixture to give 71 mg of the titled compound.

reactant | (2-chloro-pyridin-3-yl)-[4-(2,6-dichloro-phenyl)-1H-pyrrol-2-yl]-methanone | 150 mg | ClC1=NC=CC=C1C(=O)C=1NC=C(C1)C1=C(C=CC=C1Cl)Cl | C16H9Cl3N2O
reactant | hydrazine hydrate | 0.5 mL | O.NN
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 3-[4-(2,6-Dichloro-phenyl)-1H-pyrrol-2-yl]-1H-pyrazolo[3,4-b]pyridine | 71 mg | ClC1=C(C(=CC=C1)Cl)C=1C=C(NC1)C1=NNC2=NC=CC=C21 | C16H10Cl2N4
